US06211227B1
In methylene chloride (30 ml) was suspended 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoic acid obtained in Reference Example 17 (0.92 g, 2.88 mmol), and trifluoroacetic anhydride (0.81 ml, 5.76 mmol) was added thereto, followed by stirring at room temperature for 2 hours. The reaction mixture was ice-cooled, and boron trifluoride etherate (0.13 ml, 1.06 mmol) was added thereto, followed by reaction for one hour. After the reaction was completed, a saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture. The organic layer was washed successively with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained oily substance was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to give 3-methoxy-10-nitro-6,11-dihydrodibenzo[b,e]thiepin-11-one (0.40 g, 46%).

reactant | 2-(3-methoxyphenylthiomethyl)-6-nitrobenzoic acid | COC=1C=C(C=CC1)SCC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C15H13NO5S
reactant | trifluoroacetic anhydride | 5.76 mmol, 0.81 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | boron trifluoride etherate | 1.06 mmol, 0.13 ml | B(F)(F)F.CCOCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxy-10-nitro-6,11-dihydrodibenzo[b,e]thiepin-11-one | 0.40 g, 46% | COC=1C=CC2=C(SCC3=C(C2=O)C(=CC=C3)[N+](=O)[O-])C1 | C15H11NO4S
